US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-2-(2-furyl)-5-methyloxazole to give 2-(2-furyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-5-methyloxazole. The yield was 79%. Recrystallization from acetone-isopropyl ether gave colorless prisms, mp 89-90° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-2-(2-furyl)-5-methyloxazole | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
product | 2-(2-furyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-5-methyloxazole | yield was 79% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1)C | C21H21N3O3
